US05135937
38.9 g of 4-azidomethylbenzonitrile is refluxed in 400 ml of toluene with 42 ml of trimethylsilylacetylene for 5 hours at 120°, combined with another 21 ml of trimethylsilylacetylene, and once again refluxed for 3 hours at 120°. Then the mixture is concentrated under vacuum, yielding 63 g of crude 4-[4-trimethylsilyl-(1,2,3-triazol-1-yl)methyl]benzonitrile. The latter is refluxed with a mixture of 700 ml of glacial acetic acid, 380 ml of water, as well as 110 ml of tetrahydrofuran for 2 hours. For working up purposes, the mixture is poured into sodium bicarbonate solution, extracted three times with dichloromethane, washed neutral with water, dried over sodium sulfate, concentrated to dryness under vacuum, and recrystallized from ethyl acetate/hexane, yielding 32.8 g of 4-[1-(1,2,3-triazolyl)methyl]benzonitrile as colorless crystals, mp 83°.

reactant | 4-azidomethylbenzonitrile | 38.9 g | N(=[N+]=[N-])CC1=CC=C(C#N)C=C1 | C8H6N4
reactant | trimethylsilylacetylene | 42 ml | C[Si](C)(C)C#C | C5H10Si
reactant | trimethylsilylacetylene | 21 ml | C[Si](C)(C)C#C | C5H10Si
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[4-trimethylsilyl-(1,2,3-triazol-1-yl)methyl]benzonitrile | 63 g | C[Si](C=1N=NN(C1)CC1=CC=C(C#N)C=C1)(C)C | C13H16N4Si
